US04239903
A mixture of 5.3 g of 6-methoxy-2-tetralone, 3 g of cyclohexylamine and 70 ml of absolute ethanol was heated for 7 hours at reflux. To the mixture was added 0.3 g of platinum oxide, and a catalytic reduction was conducted in the presence of hydrogen. After absorption of hydrogen gas was completed, the platinum oxide catalyst in the reaction solution was removed by filtration and the filtrate was concentrated under reduced pressure to obtain a residue. Then, an ethanol solution saturated with hydrogen chloride was added to the residue and the solution was concentrated under reduced pressure. The residue obtained was dissolved in acetone and the solution was stirred to form crystals. After collecting the crystals by filtration and recrystallizing from a mixed solvent of ethanol and diethyl ether, 5.0 g of N-cyclohexyl-6-methoxy-1,2,3,4-tetrahydro-2-naphthylamine hydrochloride was obtained as colorless needles having a melting point of 252°-254° C.

reactant | 6-methoxy-2-tetralone | 5.3 g | COC=1C=C2CCC(CC2=CC1)=O | C11H12O2
reactant | cyclohexylamine | 3 g | C1(CCCCC1)N | C6H13N
reactant | hydrogen | [H][H] | H2
reactant | hydrogen chloride | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
catalyst | platinum oxide | 0.3 g | [Pt]=O
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | N-cyclohexyl-6-methoxy-1,2,3,4-tetrahydro-2-naphthylamine hydrochloride | 5.0 g | Cl.C1(CCCCC1)NC1CC2=CC=C(C=C2CC1)OC | InChI=1S/C17H25NO.ClH/c1-19-17-10-8-13-11-16(9-7-14(13)12-17)18-15-5-3-2-4-6-15;/h8,10,12,15-16,18H,2-7,9,11H2,1H3;1H
